US04923885
A solution of 5-amino-l,2,3-triazole-4-carboxamide (364 mg, 2.86 mmol) in 5 ml of dry dimethylformamide was treated with 50 % sodium hydride dispersion in mineral oil (137 mg, 2.86 mmol). The reaction mixture was warmed to 45° C. and then stirred for 45 minutes. A solution of 4-(1-naphthoyl)-3,5-dichlorobenzyl bromide (0.98 g, 2.49 mmol) in 5 ml of dry dimethylformamide was added. The reaction mixture was heated at 45° C. for an additional 20 minutes and then stirred at ambient temperatures for 1 hour. The mixture was slowly added to 100 ml of water containing two drops of glacial acetic acid. The precipitate was collected by filtration and thoroughly washed with water. The solid was dissolved in methylene chloride and washed with brine and dried with anhydrous sodium sulfate. Evaporation of the solvent afforded 1.11 g of crude product which was purified by column chromatography on silica gel (3g methanol in methylene chloride) to give 0.365 g of 5-Amino-1-[4-(l-naphthoyl)-3,5-dichlorobenzyl]1,2,3-triazole-4-carboxamide and 0.46 g of an isomer of undefined regiochemistry.

reactant | 5-amino-l,2,3-triazole-4-carboxamide | 2.86 mmol, 364 mg | NC1=C(N=NN1)C(=O)N | C3H5N5O
reactant | sodium hydride | [H-].[Na+]
reactant | 4-(1-naphthoyl)-3,5-dichlorobenzyl bromide | 2.49 mmol, 0.98 g | C1(=CC=CC2=CC=CC=C12)C(=O)C1=C(C=C(CBr)C=C1Cl)Cl | C18H11BrCl2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
catalyst | water | 100 ml | O | H2O
product | 5-Amino-1-[4-(l-naphthoyl)-3,5-dichlorobenzyl]1,2,3-triazole-4-carboxamide | 0.365 g | NC1=C(N=NN1CC1=CC(=C(C(=C1)Cl)C(=O)C1=CC=CC2=CC=CC=C12)Cl)C(=O)N | C21H15Cl2N5O2
